US08222414B2
(R)-2-[(5-chloromethyl-7-nitro-1H-indol-2-yl)-4,5-dihydro-thiazol-4-yl]acetic acid methylester
5-Hydroxymethyl-7-nitro-1H-indole-2-carboxylic acid prepared in Preparation 38 and (R)-3-amino-4-(4-methoxy-benzylsulfanyl)-butyric acid methyl ester hydrochloride prepared in Preparation 27 were reacted according to the same procedures as Steps B and C of Preparation 40 to give the title compound.

reactant | 5-Hydroxymethyl-7-nitro-1H-indole-2-carboxylic acid | OCC=1C=C2C=C(NC2=C(C1)[N+](=O)[O-])C(=O)O | C10H8N2O5
reactant | (R)-3-amino-4-(4-methoxy-benzylsulfanyl)-butyric acid methyl ester hydrochloride | Cl.COC(C[C@H](CSCC1=CC=C(C=C1)OC)N)=O
product | (R)-2-[(5-chloromethyl-7-nitro-1H-indol-2-yl)-4,5-dihydro-thiazol-4-yl]acetic acid methylester | COC(C[C@H]1N=C(SC1)C=1NC2=C(C=C(C=C2C1)CCl)[N+](=O)[O-])=O | C15H14ClN3O4S
